US07750167B2
A: (2-Bromo-benzyl)-phosphonic acid diethyl ester
2-Bromobenzyl bromide (1048 g, 4.2 mol) was melted in a water bath of 60° C. and dissolved in xyleen (734 ml). The solution was heated to 80° C. Next triethyl phosphite (766 ml, 4.46 mol) was added in three equal portions to the reaction mixture in 60 minutes. The mixture was stirred overnight at 110° C. The reaction mixture was co-evaporated twice with 400 ml of xylene. The xylene was removed in vacuo at 60° C. The product was dried in a vacuum oven at 60° C. and was used without further purification.

reactant | 2-Bromobenzyl bromide | 4.2 mol, 1048 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | triethyl phosphite | 4.46 mol, 766 ml | P(OCC)(OCC)OCC | C6H15O3P
solvent | xylene | 400 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (2-Bromo-benzyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=C(C=CC=C1)Br | C11H16BrO3P
